US05344928
N-(3-Cyanopropyl)-N-methylaniline
To N-methylaniline (25 g) was added 4-chlorobutyronitrile (25 ml) and the mixture was stirred at 110° C. for 24 hours. After cooling, the mixture was neutralized with an aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated. The residue was subjected to distillation under reduced pressure to obtain the desired compound (21.5 g) as pale yellow oil.

reactant | N-methylaniline | 25 g | CNC1=CC=CC=C1 | C7H9N
reactant | 4-chlorobutyronitrile | 25 ml | ClCCCC#N | C4H6ClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(3-Cyanopropyl)-N-methylaniline | 21.5 g | C(#N)CCCN(C1=CC=CC=C1)C | C11H14N2
